US05424329
3-Bromo-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylic acid
A solution of potassium hydroxide (17.0 g, 303 mmol) in 3.0 L of 50% aqueous methanol is treated with ethyl 3-bromo-1-methyl-5-(phenylmethoxy)-1 H-indole-2-carboxylate (55.4 g, 143 mmol). The mixture is stirred at reflux for 5 hours, than decanted while warm from any insoluble material into 600 mL of hot water. The warm solution is quickly acidified with 100 mL of 4.0N HCl. An additional 1.0 L of cold water is added, and the mixture is stirred for 1 hour. The precipitated solid is filtered, stirred in 1.0 L of 25% methanol-water, and refiltered, to give 49.6 g (96%) of product, suitable for further synthesis. A sample recrystallized from aqueous acetonitrile has mp 210° C.-dec.

reactant | potassium hydroxide | 303 mmol, 17.0 g | [OH-].[K+]
reactant | ethyl 3-bromo-1-methyl-5-(phenylmethoxy)-1 H-indole-2-carboxylate | 143 mmol, 55.4 g | BrC1=C(N(C2=CC=C(C=C12)OCC1=CC=CC=C1)C)C(=O)OCC | C19H18BrNO3
solvent | methanol | 3.0 L | CO | CH4O
product | 3-Bromo-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylic acid | 49.6 g, 96% | BrC1=C(N(C2=CC=C(C=C12)OCC1=CC=CC=C1)C)C(=O)O | C17H14BrNO3
